US06830831B2
9-Ethylfluorene:
A solution of n-butyllithium (79.52 cm3, 0.2168 mol, 2.5M in hexane) was added slowly to a solution of fluorene (30.00 g, 0.1807 mol) in THF (300 cm3) at −70° C. The solution was stirred for 1 hour at −75° C. and 1-bromoethane (17.59 cm3, 0.2349 mol) was added slowly. The solution was allowed to warm to room temperature and then stirred overnight. Dilute hydrochloric acid (200 ml, 20%) was added to the reaction mixture and stirred for a further 10 minutes. Water (250 cm3) was added and the product extracted into diethyl ether (3×300 cm3). The combined organic extracts were dried (MgSO4) and the solvent removed on a rotary evaporator. The resulting oil was purified by distillation to yield a pale yellow oil (25.00 g, 71%, b.pt.-150° C. @ 1 mbar Hg).

reactant | n-butyllithium | 0.2168 mol, 2.5M, 79.52 cm3 | C(CCC)[Li]
reactant | fluorene | 0.1807 mol, 30.00 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | 1-bromoethane | 0.2349 mol, 17.59 cm3 | BrCC | C2H5Br
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | THF | 300 cm3 | C1CCOC1 | C4H8O
solvent | Water | 250 cm3 | O | H2O
product | 9-Ethylfluorene | C(C)C1C2=CC=CC=C2C=2C=CC=CC12 | C15H14
